US04234594
2[1-(2-chlorophenyl)-5-pyrazolyl] amino-2-imidazoline
1-Acetyl-2[1-(2-chlorophenyl)-5-pyrazolyl] amino-2-imidazoline (14.0 g.) was treated with HCl in methanol as described in Example II to give 11.10 g. product mp 185°-188° (crystallized from CH3CN)

reactant | 1-Acetyl-2[1-(2-chlorophenyl)-5-pyrazolyl] amino-2-imidazoline | 14.0 g | C(C)(=O)N1C(=NCC1)NC1=CC=NN1C1=C(C=CC=C1)Cl | C14H14ClN5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2[1-(2-chlorophenyl)-5-pyrazolyl] amino-2-imidazoline | ClC1=C(C=CC=C1)N1N=CC=C1NC=1NCCN1 | C12H12ClN5
